US07375134B2
To a −78° C. solution of 1,4-dibromobenzene (330 mg) in THF (5.2 mL) was added 2.5M n-BuLi in hexanes (0.52 mL) and the solution was aged for 30 minutes. Then, a solution of (2S)-1-((tert-butyl(dimethyl)silyl)oxy)-4,4-difluoro-N-((1E)-2,2,2-trifluoroethylidene)pentan-2-amine (333 mg) in THF (5.2 mL) was added. The mixture was stirred at −78° C. for 45 minutes, then poured over cold saturated ammonium chloride, extracted with ethyl acetate (2×), washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated under vacuum. The residue was dissolved in THF (10 mL) cooled in an ice/water bath and n-tetrabutylammonium fluoride (1M in THF, 1.5 mL) was added. The mixture was stirred at 0° C. for 1 h, poured over cold water, extracted with ethyl acetate (2×), washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated under vacuum to afford (2S)-2-(((1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl)amino)-4,4-difluoropentan-1-ol.

reactant | 1,4-dibromobenzene | 330 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | (2S)-1-((tert-butyl(dimethyl)silyl)oxy)-4,4-difluoro-N-((1E)-2,2,2-trifluoroethylidene)pentan-2-amine | 333 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)(F)F)/N=C/C(F)(F)F | C13H24F5NOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.2 mL | C1CCOC1 | C4H8O
solvent | THF | 5.2 mL | C1CCOC1 | C4H8O
product | (2S)-2-(((1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl)amino)-4,4-difluoropentan-1-ol | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](CO)CC(C)(F)F | C13H15BrF5NO
